US04006170
6.3 g of 4-aminoanthrone are dissolved in 100 ml of hot 1 N KOH. Air is then passed through the solution at 80° C until the yellow exudation from a spot test has disappeared. After filtering off and washing until neutral, 4.5 g of product containing 58.2% of 1-aminoanthraquinone (39% yield) are obtained. On boiling with toluene, which dissolves the 1-aminoanthraquinone, a yellow residue is obtained which according to analysis, NMR-spectrum, IR-spectrum, mass spectrum and molecular weight determination is 4,4' -diamino-dihydrodianthrone (melting point: 251°-253° C).

reactant | 4-aminoanthrone | 6.3 g | NC1=CC=CC=2C(C3=CC=CC=C3CC12)=O | C14H11NO
reactant | KOH | 1 N | [OH-].[K+]
product | 1-aminoanthraquinone | 39% yield | NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H9NO2
